US03937824
Preparation of 1-Chloro-2-(N-3-allylphenyl-carbamoyloxy)-2-methoxyiminoethane
N-Methoxychloroacetamide (12.3 grams; 0.1 mole), benzene (80 ml) and dibutyltin dilaurate (1 drop) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. 3-Allylphenylisocyanate (16 grams; 0.1 mole) dissolved in benzene (30 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 2 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-(N-3-allylphenylcarbamoyloxy)-2-methoxyiminoethane.

reactant | N-Methoxychloroacetamide | 0.1 mole, 12.3 grams | CONC(CCl)=O | C3H6ClNO2
reactant | 3-Allylphenylisocyanate | 0.1 mole, 16 grams | C(C=C)C=1C=C(C=CC1)N=C=O | C10H9NO
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N-3-allylphenylcarbamoyloxy)-2-methoxyiminoethane | ClCC(=NOC)OC(NC1=CC(=CC=C1)CC=C)=O | C13H15ClN2O3
